US07375134B2
Step 1: Preparation of (4S)-4-isobutyl-2-(pentafluoroethyl)-1,3-oxazolidine
Pentafluoropropanal methyl hemiacetal (14.9 g, 82.8 mmol) and L-leucinol (9.7 g, 82.8 mmol) were dissolved in 100 mL of benzene and heated to reflux overnight in a flask equipped with a Dean-Stark tube. The resulting solution was cooled and concentrated to provide the title compound as an oil which was used directly in the following step.

reactant | Pentafluoropropanal methyl hemiacetal | 82.8 mmol, 14.9 g | COC(C(C(F)(F)F)(F)F)O | C4H5F5O2
reactant | L-leucinol | 82.8 mmol, 9.7 g | N[C@@H](CC(C)C)CO | C6H15NO
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | (4S)-4-isobutyl-2-(pentafluoroethyl)-1,3-oxazolidine | C(C(C)C)[C@@H]1NC(OC1)C(C(F)(F)F)(F)F | C9H14F5NO
